US04914092
(b) 2-Chloro-N-methyl-N-[2-oxo-2-(1,2,3,4-tetrahydro-2isoquinolyl)ethyl]ethylamine.
The procedure is similar to that described in Example 6b), treating 5.6 g of 2-{N-[2-oxo-2-(1,2,3,4-tetrahydro-2-isoquinolyl) ethyl]methylamino}ethanol with an excess of thionyl chloride in chloroform.

reactant | 2-{N-[2-oxo-2-(1,2,3,4-tetrahydro-2-isoquinolyl) ethyl]methylamino}ethanol | 5.6 g | O=C(CN(CCO)C)N1CC2=CC=CC=C2CC1 | C14H20N2O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-Chloro-N-methyl-N-[2-oxo-2-(1,2,3,4-tetrahydro-2isoquinolyl)ethyl]ethylamine | ClCCN(CC(N1CC2=CC=CC=C2CC1)=O)C | C14H19ClN2O
